US08097628B2
Sulphur trioxide pyridene complex (1010 mg, 6.35 mmol) was suspended in dry DMSO (1.126 ml, 15.87 mmol). Then pyridine (0.513 ml, 6.35 mmol) was added and after 15 min under stirring, this solution was slowly added to other containing a mixture of (5-chloro-6-methyl-3-pyridinyl)methanol (for a synthesis see WO2006/137485 A1 Example 255) (500 mg, 3.17 mmol) and N,N-diisopropylethylamine (1.939 ml, 11.10 mmol) in a mixture of DMSO (1.12 ml) and DCM (4 ml) at 0° C. After 1 h under stirring, the ice bath was removed and the reaction was left at room temperature overnight. DCM was evaporated under vacuum, H2O and Et2O (1:1) were added and the aqueous layer was extracted several times with Et2O. Organic layers were washed with brine, dried (Na2SO4), filtered and concentrated to afford 5-chloro-6-methyl-3-pyridinecarbaldehyde (435 mg, 88%) as a yellow solid.

reactant | pyridine | 6.35 mmol, 0.513 ml | N1=CC=CC=C1 | C5H5N
reactant | (5-chloro-6-methyl-3-pyridinyl)methanol | ClC=1C=C(C=NC1C)CO | C7H8ClNO
reactant | N,N-diisopropylethylamine | 11.10 mmol, 1.939 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMSO | 1.12 ml | CS(=O)C | C2H6OS
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
solvent | DMSO | 15.87 mmol, 1.126 ml | CS(=O)C | C2H6OS
product | 5-chloro-6-methyl-3-pyridinecarbaldehyde | 435 mg, 88% | ClC=1C=C(C=NC1C)C=O | C7H6ClNO
